datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC[N-:10]C(=S)OC(C)C.Cc1ccc(C(=S)[N:21](c2ccccc2)[H:20])cc1>>CC[N:10](C(=S)OC(C)C)[H:20].Cc1ccc(C(=S)[N-:21]c2ccccc2)cc1 10=20;20,21=21",
"C[C@H](O)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@H]([NH2+:21][H:20])CC[C@]4(C)[C@H]3CC[C@]12C.O=P([O-])([O-])c1cn2c([n:10]1)[C@@H](O)[C@H](O)[C@@H](O)[C@@H]2CO>>C[C@H](O)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@H]([NH2:21])CC[C@]4(C)[C@H]3CC[C@]12C.O=P([O-])([O-])c1cn2c([n+:10]1[H:20])[C@@H](O)[C@H](O)[C@@H](O)[C@@H]2CO 10=20;20,21=21",
"COC(=O)/C(=N/[O-:10])c1ccccc1.OCCn1c[n+:21]([H:20])c2ccccc21>>COC(=O)/C(=N/[O:10][H:20])c1ccccc1.OCCn1c[n:21]c2ccccc21 10=20;20,21=21",
"CN(C)C(=O)C[NH:10]C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CN(C)C(=O)C[NH+:10](C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(=O)NS(=O)(=O)c1ccc([NH2+:21][H:20])cc1.COCC1=C(C(=O)[O-:10])CC1>>CC(=O)NS(=O)(=O)c1ccc([NH2:21])cc1.COCC1=C(C(=O)[O:10][H:20])CC1 10=20;20,21=21",
"Cc1cc2c(cc1N)Sc1cc([N:10](C)C)ccc1N2.O=C(/C=C/c1c[nH]c[nH+]1)[O:21][H:20]>>Cc1cc2c(cc1N)Sc1cc([N+:10](C)(C)[H:20])ccc1N2.O=C(/C=C/c1c[nH]c[nH+]1)[O-:21] 10=20;20,21=21",
"C(=N/[NH2:10])\c1ncnc2nc[nH]c12.Oc1ccccc1C[N+:21]1([H:20])CCCCC1>>C(=N/[NH2+:10][H:20])\c1ncnc2nc[nH]c12.Oc1ccccc1C[N:21]1CCCCC1 10=20;20,21=21",
"CC[Si](C)(C)CCCC(=O)[O:21][H:20].NS(=O)(=O)c1ccccc1C[NH2:10]>>CC[Si](C)(C)CCCC(=O)[O-:21].NS(=O)(=O)c1ccccc1C[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)C[NH2:10].CC[N+:21]1([H:20])[C@@H](C)[C@@H]1C>>CC(C)C[NH2+:10][H:20].CC[N:21]1[C@@H](C)[C@@H]1C 10=20;20,21=21",
"CCC[N+:21](C)(N)[H:20].CN1C2=C(CCCC2)S/C1=[N:10]/N>>CCC[N:21](C)N.CN1C2=C(CCCC2)S/C1=[N+:10](/N)[H:20] 10=20;20,21=21",
"O=C(CCc1nnnn1-c1ccccc1)[O-:10].O=C(c1nsc2ccccc12)[O:21][H:20]>>O=C(CCc1nnnn1-c1ccccc1)[O:10][H:20].O=C(c1nsc2ccccc12)[O-:21] 10=20;20,21=21",
"CC(O)C(=O)[O-:10].OC[NH+:21](c1ccc(Cl)cc1)[H:20]>>CC(O)C(=O)[O:10][H:20].OC[NH:21]c1ccc(Cl)cc1 10=20;20,21=21",
"C=C(C)C=C(C=C(C)C)[O:21][H:20].O=C([O-])CCCCCCCCC[NH2:10]>>C=C(C)C=C(C=C(C)C)[O-:21].O=C([O-])CCCCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"C[N:10]1CCCC1c1ccccc1.Cc1[nH][n+:21]([H:20])c(O)c1C(C)C>>C[N+:10]1([H:20])CCCC1c1ccccc1.Cc1[nH][n:21]c(O)c1C(C)C 10=20;20,21=21",
"CC1CNCC[NH:10]1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC1CNCC[NH+:10]1[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C[NH:10]CC(O)c1cccc(O)c1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[NH+:10](CC(O)c1cccc(O)c1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CN(C)C=[N+:21](c1cccc(Cl)c1)[H:20].O=C(O[C@H]1O[C@@H](C(=O)[O-:10])[C@H](O)[C@@H](O)[C@@H]1O)c1ccccc1>>CN(C)C=[N:21]c1cccc(Cl)c1.O=C(O[C@H]1O[C@@H](C(=O)[O:10][H:20])[C@H](O)[C@@H](O)[C@@H]1O)c1ccccc1 10=20;20,21=21",
"O=C(CCCCC1CCSS1)[O:21][H:20].c1cc2cnncc2cc1[O-:10]>>O=C(CCCCC1CCSS1)[O-:21].c1cc2cnncc2cc1[O:10][H:20] 10=20;20,21=21",
"C[n+]1ccsc1[NH-:10].O=[N+]([O-])c1cc(C[N+:21]2([H:20])CCCCC2)c([O-])c2ccccc12>>C[n+]1ccsc1[NH:10][H:20].O=[N+]([O-])c1cc(C[N:21]2CCCCC2)c([O-])c2ccccc12 10=20;20,21=21",
"Cc1c([N+](=O)[O-])ccc2c(NCCC[NH+](C)C)cc[n:10]c12.O=C([O-])CCCCCCC[NH2+:21][H:20]>>Cc1c([N+](=O)[O-])ccc2c(NCCC[NH+](C)C)cc[n+:10]([H:20])c12.O=C([O-])CCCCCCC[NH2:21] 10=20;20,21=21",
"C[NH+](C)Cc1cc(Br)ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+](C)Cc1cc(Br)ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCC[NH:10]CCCC.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCCC[NH+:10](CCCC)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC(C)=CC(=O)[O-:10].CCOc1ccc2nccc([C@@H](O)[C@@H]3C[C@H]4CC[N+:21]3([H:20])C[C@@H]4CC)c2c1>>CC(C)=CC(=O)[O:10][H:20].CCOc1ccc2nccc([C@@H](O)[C@@H]3C[C@H]4CC[N:21]3C[C@@H]4CC)c2c1 10=20;20,21=21",
"c1cc[n:10]c(-c2[nH]cc[nH+]2)c1.c1cnc2ccc([S:21][H:20])cc2c1>>c1cc[n+:10]([H:20])c(-c2[nH]cc[nH+]2)c1.c1cnc2ccc([S-:21])cc2c1 10=20;20,21=21",
"C[C@@H]1CCC[C@H](C)[NH:10]1.Oc1ccc(/N=N/c2cc[n+:21]([H:20])cc2)cc1>>C[C@@H]1CCC[C@H](C)[NH+:10]1[H:20].Oc1ccc(/N=N/c2cc[n:21]cc2)cc1 10=20;20,21=21",
"COc1ccc(-c2cc3cc[n+:21]([H:20])cc3[nH]2)c(OC)c1.Nc1c2ccccc2cc[n:10]1>>COc1ccc(-c2cc3cc[n:21]cc3[nH]2)c(OC)c1.Nc1c2ccccc2cc[n+:10]1[H:20] 10=20;20,21=21",
"COc1cc(Br)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:21]3(Cc2ccccc2)[H:20])c1OC.Nc1ccc(-c2ccc(/N=C/c3ccc([O-:10])cc3)cc2)cc1>>COc1cc(Br)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:21]3Cc2ccccc2)c1OC.Nc1ccc(-c2ccc(/N=C/c3ccc([O:10][H:20])cc3)cc2)cc1 10=20;20,21=21",
"COc1ccc(/C=C/C(=O)[O:21][H:20])cc1.NC(=O)[C@H]1CC(=O)N[C@@H]1C(=O)[O-:10]>>COc1ccc(/C=C/C(=O)[O-:21])cc1.NC(=O)[C@H]1CC(=O)N[C@@H]1C(=O)[O:10][H:20] 10=20;20,21=21",
"C[C@H]1C[C@@H]2CC[N:10]1C2.[NH3+]CCCCCC[NH2+:21][H:20]>>C[C@H]1C[C@@H]2CC[N+:10]1([H:20])C2.[NH3+]CCCCCC[NH2:21] 10=20;20,21=21",
"N[C@H]1C[C@@H]1[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>N[C@H]1C[C@@H]1[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C([O-])c1cccc2ccc[n+:21]([H:20])c12.O=[N+]([O-])c1ccc([O-:10])c(O)c1>>O=C([O-])c1cccc2ccc[n:21]c12.O=[N+]([O-])c1ccc([O:10][H:20])c(O)c1 10=20;20,21=21",
